US09238639B2
(6-((1-Methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-4-(trifluoromethyl)-1-benzothiophen-3-yl)acetic acid
To a mixture of methyl(6-hydroxy-4-(trifluoromethyl)-1-benzothiophen-3-yl)acetate (60 mg) and THF (dry) (3 mL) were added (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol (37.2 mg), ADDP (62.6 mg) and tri-n-butylphosphine (0.071 mL) at room temperature. The mixture was stirred at room temperature for 12 h. The insoluble material was removed by filtration, and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane). To the mixture of the crude material and THF (1 mL) was added 1N NaOH (1 mL) at room temperature for 12 h. The mixture was neutralized with 1N HCl at 0° C. and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The solid was crystallized from EtOAc-hexane to give the title compound (64.0 mg).

reactant | methyl(6-hydroxy-4-(trifluoromethyl)-1-benzothiophen-3-yl)acetate | 60 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)C(F)(F)F)=O | C12H9F3O3S
reactant | (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol | 37.2 mg | CN1N=C(C=C1CO)C(F)(F)F | C6H7F3N2O
reactant | ADDP | 62.6 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | tri-n-butylphosphine | 0.071 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (6-((1-Methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-4-(trifluoromethyl)-1-benzothiophen-3-yl)acetic acid | 64.0 mg | CN1N=C(C=C1COC1=CC2=C(C(=CS2)CC(=O)O)C(=C1)C(F)(F)F)C(F)(F)F | C17H12F6N2O3S
